US05866685
N-BOC-2-phenylethylamine (3.1 g) and 5% rhodium on alumina (1.1 g) are combined in methanol (40 ml) containing acetic acid (1.0 ml). The mixture is shaken under hydrogen at 50 psi for about 20 hours. The mixture is filtered, evaporated in vacuo, and the residue taken up into ethyl acetate. The organic solution is washed with water, 5% sodium bicarbonate solution, water, brine, dried over sodium sulfate, filtered, and evaporated in vacuo to give N-BOC-2-cyclohexylethylamine.

reactant | N-BOC-2-phenylethylamine | 3.1 g | C(=O)(OC(C)(C)C)NCCC1=CC=CC=C1 | C13H19NO2
reactant | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | rhodium on alumina | 1.1 g | [Rh] | Rh
product | N-BOC-2-cyclohexylethylamine | C(=O)(OC(C)(C)C)NCCC1CCCCC1 | C13H25NO2
